Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old ___ s/p recent IUFD of triplets on ___ complicated 
by large EBL of 2L and retained placenta requiring D+C.  She was 
discharged on ___ and after leaving noted to have increased 
abdominal pain and fever to 101.5 at home despite tylenol and 
motrin.  

She denies any chills, cough, chest pain, shortness of breath, 
diarrhea, dysuria, n/v.  She reports minimal vaginal bleeding 
that is more of a spotting now.
 
Past Medical History:
GYNH:  denies abnormal Pap/STI. Hx of PCOS
 
OBH: G6P1
- SAB x4
- 23 week SVD ___ cervical incompetence, fetal demise 
- 19 week SVD/demise of triplets
 
PMH: PCOS, ?cHTN (elevated BPs since start of pregnancy)

PSURGH: lsc CCY, D+Cs, diagnostic lsc

 
Social History:
denies T/E/D

 
Physical Exam:
Exam on admission:
VS: T-100.7  HR-117  BP-137/69  RR-19  O2-97% Ra
General: NAD
HEENT: NCAT, EOMI, PERRL
Neck: Normal thyroid, no cervical lymphadenopathy appreciated
CV: RRR, no murmurs
Pulm: CTAB
Abd: Soft,  nondistended, no HSM, obese, tender over lower
abdomen and in area of fundus but hard to feel given body
habitus. 
Pad: min pink blood.
Back: No CVA tenderness 
Ext: nontender. B/L lower ext 1+ piting edema

 
Pertinent Results:
___  WBC-16.2* RBC-2.85* Hgb-9.0* Hct-27.9* MCV-98 MCH-31.6 
MCHC-32.2 RDW-16.8* Plt ___
___  WBC-28.0*# RBC-2.95* Hgb-9.4* Hct-28.3* MCV-96 
MCH-31.8 MCHC-33.1 RDW-16.9* Plt ___
___  Neuts-85.9* Lymphs-9.2* Monos-3.8 Eos-0.6 Baso-0.5
___  Neuts-84* Bands-7* Lymphs-4* Monos-4 Eos-1 Baso-0 
___ Myelos-0
___  URINE Blood-MOD Nitrite-NEG Protein-30 Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-4* pH-7.5 Leuks-SM 
___ URINE RBC-182* WBC-12* Bacteri-FEW Yeast-NONE Epi-5 
TransE-<1
 
Brief Hospital Course:
Ms. ___ was admitted to the post-partum service for IV 
gentamicin and clindamycin for presumed 
post-partum/post-operative endometritis.  She initially had 
abdominal tenderness and was febrile to 100.7 on admission. She 
also had WBC of 28 with 7% bandemia.  
.
She defervesced with tylenol and antibioitics. She continued the 
gentamicin and clindamycin until she had been afebrile for 48 
hours, on hospital day 4.  Throughout that time her abdomen also 
became nontender and her WBC came down to 16.2.  She was 
discharged home on hospital day 5 in good condition with 
follow-up. 
 
Medications on Admission:
dilaudid PO, colace

 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endomyometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 4 weeks
No tub bathing for 4 weeks
 
Followup Instructions:
___